US08071768B2
c. (6-Cyclopentyloxy-pyridin-3-yl)-carbamic acid 4-nitro-phenyl ester
To a solution of 6-cyclopentyloxy-pyridin-3-ylamine (0.248 g, 1.39 mmol) in THF (2 mL) was added 4-nitrophenyl chloroformate (0.280 g, 1.39 mmol) portionwise. After stirring at rt for 1 h, a heavy precipitate formed in the organic layer. Filtration of the organic layer provided the title compound as a light pink solid (0.368 g, 77%). 1H-NMR (400 MHz, CDCl3): δ 11.1 (s, 1H), 9.11 (s, 1H), 9.04 (d, 1H), 8.26 (d, 2H), 7.40 (d, 2H), 7.14 (d, 1H), 5.36 (m, 1H), 2.11 (m, 2H), 1.97 (m, 2H), 1.84 (m, 2H), 1.71 (m, 2H).

reactant | 6-cyclopentyloxy-pyridin-3-ylamine | 1.39 mmol, 0.248 g | C1(CCCC1)OC1=CC=C(C=N1)N | C10H14N2O
reactant | 4-nitrophenyl chloroformate | 1.39 mmol, 0.280 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (6-Cyclopentyloxy-pyridin-3-yl)-carbamic acid 4-nitro-phenyl ester | 0.368 g, 77% | [N+](=O)([O-])C1=CC=C(C=C1)OC(NC=1C=NC(=CC1)OC1CCCC1)=O | C17H17N3O5
